US05496947
Preparation of 1-(3-fluoro-4-pyridyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
5 g of ethyl 1-(3-fluoro-4-pyridyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate is added with 20 ml of water, 30 ml of ethanol and 15 ml of conc. hydrochloric acid and refluxed for 8 hours. After cooling to room temperature and standing for 2 hours, filtering and drying are carried out to obtain 4.2 g of the desired compound.

reactant | ethyl 1-(3-fluoro-4-pyridyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 5 g | FC=1C=NC=CC1N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C17H11F3N2O3
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(3-fluoro-4-pyridyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 4.2 g | FC=1C=NC=CC1N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C15H7F3N2O3
